US05162362
C) N-(1-Carboethoxy-3-phenylpropyl)-alanyloctahydroindole-2-carboxylic acid benzyl ester
11.1 g of Ala-Oic-OBzl.TFA, 7 g of α-bromophenylbutyric acid ethyl ester and 3.3 ml of N-ethylmorpholine are stirred in 20 ml of dimethylacetamide for 4 days at room temperature. The mixture is concentrated to a large extent in vacuo, the residue is dissolved in methanol, the methanolic solution is adjusted to pH 2 with aqueous 2N HCl, and lipophilic compounds are extracted with petroleum ether. The methanolic phase is concentrated and 5% sodium carbonate solution is added to it, and the reaction product is extracted in ethyl acetate. Chromatography over silica gel (system ethyl acetate/petroleum ether 5:3) yields the title compound as a colorless oil.

reactant | Ala-Oic-OBzl.TFA | 11.1 g | N[C@@H](C)C(=O)N1[C@@H](CC2CCCCC12)C(=O)OCC1=CC=CC=C1.FC(F)(F)C(=O)O
reactant | α-bromophenylbutyric acid ethyl ester | 7 g | C(C)OC(C(CC)(Br)C1=CC=CC=C1)=O | C12H15BrO2
reactant | N-ethylmorpholine | 3.3 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | N-(1-Carboethoxy-3-phenylpropyl)-alanyloctahydroindole-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1N(C2CCCCC2C1)C([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCC)C)=O | C31H40N2O5
